### PR TITLE
feat: ∀(x : BitVec w.succ), msb x = 1 iff x >= 2^w

### PR DESCRIPTION
**Pull request by bollu**
This characterizes when the `msb` is 1 in terms of an arithmetic inequality.

### CODE REVIEW

**Comment by bollu** [comment]
awaiting-review

File: Std/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -117,6 +117,23 @@ private theorem lt_two_pow_of_le {x m n : Nat} (lt : x < 2 ^ m) (le : m ≤ n) :
   else
     simp [h]
 
+
+/-! ### msb -/
+
+theorem msb_decide (x : BitVec (Nat.succ w)) : BitVec.msb x = decide (x.toNat ≥ 2^w) := by
```
Comment (alexkeizer) [inline Std/Data/BitVec/Lemmas.lean:123]:
```suggestion
theorem msb_eq_decide (x : BitVec (Nat.succ w)) : BitVec.msb x = decide (2 ^ w ≤ x.toNat) := by
```
Even though this is not a simp-lemma, it makes sense to use the simp-normal form (which prefers `<=` over `>=`). Also, the name should have `eq`

**Comment by bollu** [comment]
awaiting-author

**Comment by alexkeizer** [comment]
wip

File: Std/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -117,6 +117,21 @@ private theorem lt_two_pow_of_le {x m n : Nat} (lt : x < 2 ^ m) (le : m ≤ n) :
   else
     simp [h]
 
+
+/-! ### msb -/
+
+theorem msb_eq_decide (x : BitVec (Nat.succ w)) : BitVec.msb x = decide (2 ^ w ≤ x.toNat) := by
```
Comment (semorrison) [inline Std/Data/BitVec/Lemmas.lean:123]:
```suggestion
theorem msb_eq (x : BitVec (Nat.succ w)) : BitVec.msb x = decide (2 ^ w ≤ x.toNat) := by
```
I think the naming convention is [slightly unclear here](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Naming.20convention/near/421544382), but my preference is that the name stops at `eq` if the RHS is obvious and unambiguous. So this could just be `msb_eq`.

Comment (semorrison) [reply Std/Data/BitVec/Lemmas.lean:123]: I guess, however, in this case we also want `x.msb = x.getMsb 0`, and possibly also `x.msb = x.getLsb (Fin.last w)`, so on second thoughts keep the name as is.

What do you think of adding the other two lemmas as well (and possibly also the corresponding ones for `x.lsb`)? Fine if not now.

**Comment by semorrison** [comment]
Eventually we will need `simp` normal forms here. This doesn't need to be decided here, as you're not proposing to write `@[simp]`. I *think* my preference is for `x.msb ~> x.getLsb (Fin.last _)` and separately `x.getLsb (Fin.last _) ~> decide (...)`.

File: Std/Data/BitVec/Lemmas.lean (hunk 2 above)
Comment (semorrison) [reply Std/Data/BitVec/Lemmas.lean]: @bollu, I think you may have committed before seeing my second message. :-)

Comment (bollu) [reply Std/Data/BitVec/Lemmas.lean]: @semorrison Yes, I did. I shall keep the name with the `msb_eq_decide ` on this one, and then add the other two as a follow up PR.

**Comment by bollu** [comment]
awaiting-review
